US08012956B2
A solution of methyl 3-fluoro-4-(methyloxy)benzoate (534 mg, 2.9 mmol) in 35% aqueous potassium hydroxide:methanol (1:4, 10 mL) was stirred at reflux for 1 hour. The solution was cooled to room temperature and the methanol was evaporated. The pH of the aqueous portion was brought to 2 using concentrated hydrochloric acid. The precipitate which formed was collected by filtration and washed with water to afford 400 mg, 2.4 mmol (83%) of 3-fluoro-4-methoxybenzoic acid. MS (EI) for C8H7FO3: 169 (M−H).

reactant | methyl 3-fluoro-4-(methyloxy)benzoate | 2.9 mmol, 534 mg | FC=1C=C(C(=O)OC)C=CC1OC | C9H9FO3
solvent | potassium hydroxide methanol | 10 mL | [OH-].[K+].CO
product | 3-fluoro-4-methoxybenzoic acid | 2.4 mmol, 400 mg, 83% | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
